US08895544B2
2-Fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol dihydrobromide salt
Boron tribromide (750 μL, 7.83 mmol) was added driowuse to a solution of 2-{6-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine trihydrochloride salt (Preparation 38, 2.03 g, 3.66 mmol) in DCM (25 mL) at 0° C. The resulting solution was stirred at room temperature for 18 hours. Further boron tribromide (2 mL, 20.7 mmol) was added dropwise and the reaction mixture was allowed to stir at room temperature for 18 hours. The precipitated solid was collected by filtration, washed with DCM and triturated with EtOAc to yield the title compound as the dihydrobromide salt (1.56 g) in a 67% yield.

reactant | Boron tribromide | 7.83 mmol, 750 μL | B(Br)(Br)Br | BBr3
reactant | 2-{6-[5-fluoro-4-methoxy-2-(2,2,2-trifluoro-ethyl)-phenyl]-1H-indazol-3-yl}-4,5,6,7-tetrahydro-3H-imidazo[4,5-c]pyridine trihydrochloride salt | 3.66 mmol, 2.03 g | Cl.Cl.Cl.FC=1C(=CC(=C(C1)C1=CC=C2C(=NNC2=C1)C1=NC2=C(CNCC2)N1)CC(F)(F)F)OC
reactant | boron tribromide | 20.7 mmol, 2 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol dihydrobromide salt | 67% yield | Br.Br.FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | InChI=1S/C21H17F4N5O.2BrH/c22-14-7-13(11(6-18(14)31)8-21(23,24)25)10-1-2-12-16(5-10)29-30-19(12)20-27-15-3-4-26-9-17(15)28-20;;/h1-2,5-7,26,31H,3-4,8-9H2,(H,27,28)(H,29,30);2*1H
